US07790770B2
To a solution of (R)-methyl 4-(2-(4-fluoro-3-isopropoxyphenyl)-2-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-isocyanoethyl)benzoate (120 mg, 0.22 mmol) in MeOH (2 mL) was added 4 N HCl in dioxane (0.5 mL) and the reaction mixture was stirred for 3 minutes. The reaction solvent was evaporated under a stream of nitrogen. The residue was diluted with EtOAc (15 mL), washed with saturated sodium bicarbonate solution (10 mL) and sat. NaCl, dried over MgSO4, filtered and evaporated to yield (R)-methyl 4-(2-amino-2-(4-fluoro-3-isopropoxyphenyl)-2-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)ethyl)benzoate (103 mg, 86% yield) as a clear glass. LCMS: RT=1.87 min [M−NH2] 525.1 (Phenomenex Luna C18 4.6×30 mm column, eluting with 10-90% MeOH/H2O containing 0.% TFA, 2 min gradient, flow rate 5 mL/min, wavelength 220 nm).

reactant | (R)-methyl 4-(2-(4-fluoro-3-isopropoxyphenyl)-2-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-isocyanoethyl)benzoate | 0.22 mmol, 120 mg | FC1=C(C=C(C=C1)[C@@](CC1=CC=C(C(=O)OC)C=C1)([N+]#[C-])C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)OC(C)C | C28H23F6NO4
reactant | HCl | 4 N | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | (R)-methyl 4-(2-amino-2-(4-fluoro-3-isopropoxyphenyl)-2-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)ethyl)benzoate | 103 mg, 86% yield | N[C@@](CC1=CC=C(C(=O)OC)C=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)C1=CC(=C(C=C1)F)OC(C)C | C27H25F6NO4
